US05741797
DDQ (10.07 g, 44.36 mmol) was added to a solution of 5-isopropyl-2-methoxybenzaldehyde (2.63 g, 15.3 mmol) dissolved in methylene chloride (100 ml) contained water (10 ml) at room temperature, and the resulting mixture was stirred for 24 h. Ether (200 ml) was added to the reaction mixture, and insoluble materials were removed by filtration. The filtrate was washed with aq. sodium thiosulfate solution, aq. sodium carbonate solution, and brine, successively and dried over magnesium sulfate. After evaporation of the solvent the resultant yellow oil was purified by chromatography (silica gel, 2-70% ethyl acetate/hexane) to afford pure 5-(1-hydroxy-1-methylethyl)-2-methoxybenzaldehyde (498 mg, 17%) as a slightly yellow oil and 5-(1-methoxy-1-methylethyl)-2-methoxybenzaldehyde (less polar, 129 mg, 4%) as a solid.

reactant | DDQ | 44.36 mmol, 10.07 g | C(#N)C1=C(C(=O)C(=C(C1=O)Cl)Cl)C#N | C8Cl2N2O2
reactant | 5-isopropyl-2-methoxybenzaldehyde | 15.3 mmol, 2.63 g | C(C)(C)C=1C=CC(=C(C=O)C1)OC | C11H14O2
reactant | water | 10 ml | O | H2O
reactant | Ether | 200 ml | CCOCC | C4H10O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 5-(1-hydroxy-1-methylethyl)-2-methoxybenzaldehyde | 498 mg, 17% | OC(C)(C)C=1C=CC(=C(C=O)C1)OC | C11H14O3
